US06518435B1
Benzaldehyde (342 g) and acetic acid (800 ml) were added to 2,3-butanedione oxime (300 g), and the mixture was stirred for dissolution at room temperature, followed by cooling. Hydrochloric acid gas was started to be blown into the mixture at 5° C., and hydrochloric acid gas was continuously blown at 10-25° C. for 5 hr. Diisopropyl ether (1200 ml) was added at 10-15° C. over about 1 hr, and the mixture was aged at 5-10° C. for 1 hr. The precipitated solid was collected by filtration and washed twice with diisopropyl ether (400 ml) to give a pale-yellow white solid (not dried, 527 g) . 120 g therefrom was suspended in tetrahydrofuran (360 ml), cooled, and a solution of thionyl chloride (117 ml, 191 g) in tetrahydrofuran (240 ml) was added at 3-6° C. over about 40 min. The mixture was heated to 25° C. over about 1 hr, stirred with heating under reflux (66° C.) for 6 hr. The mixture was cooled to 27° C. over about 1 hr, and stirred under ice-cooing at 5-10° C. for 1 hr. The precipitated solid was collected by filtration and washed with tetrahydrofuran (24 ml×2) to give 4-(chloromethyl)-5-methyl-2-phenyl-1,3-oxazole (not dried, 119 g) as a pale-yellow white solid. Acetonitrile (57.9 ml) was added (suspended) to 23.7 g therefrom and pure water (9.7 ml) was added for dissolution at 21° C. Pure water (96.5 ml) was added at 21-24° C. over about 1 hr, and the mixture was cooled and stirred at 5-10° C. for 3 hr. The precipitated solid was collected by filtration, washed with pure water (20 ml×2) and dried under reduced pressure (40° C.) to give 4-(chloromethyl)-5-methyl-2-phenyl-1,3-oxazole (15.9 g) as a pale-yellow white solid in a yield of 56.7%.

reactant | Benzaldehyde | 342 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2,3-butanedione oxime | 300 g | CC(C(C)=O)=NO | C4H7NO2
reactant | Hydrochloric acid | Cl | ClH
reactant | Diisopropyl ether | 1200 ml | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | 4-(chloromethyl)-5-methyl-2-phenyl-1,3-oxazole | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
